US05538960
To a solution of 0.13 g of aminoguanidine hydrogencarbonate, 2.00 g of sodium acetate in 25 ml of 0.2M acetic acid a solution of 0.30 g 3-oxo-14β-hydroxy-5β-androstane-17β-carboxaldehyde (Prepn. 5) in 40 ml of dioxane was added dropwise. After 2 hrs the mixture was evaporated to dryness under reduced pressure and the crude product was extracted three times with iso-propanol. Evaporation of the solvent gave 0.30 g of (E)-3-oxo-17β-guanidinoiminomethyl-5β-androstane-14β-ol acetate as a white foam.

reactant | aminoguanidine hydrogencarbonate | 0.13 g | C(O)(O)=O.NNC(=N)N
reactant | sodium acetate | 2.00 g | C(C)(=O)[O-].[Na+]
reactant | 3-oxo-14β-hydroxy-5β-androstane-17β-carboxaldehyde | 0.30 g | O=C1C[C@H]2CC[C@H]3[C@]4(CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C=O)O | C20H30O3
solvent | acetic acid | 0.2M, 25 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | (E)-3-oxo-17β-guanidinoiminomethyl-5β-androstane-14β-ol acetate | 0.30 g | C(C)(=O)O[C@]12CC[C@@H]([C@@]1(C)CC[C@@H]1[C@]3(CCC(C[C@H]3CC[C@@H]21)=O)C)/C=N/NC(=N)N | C23H36N4O3
